US08937083B2
To a 100 mL round bottom flask was added (E)-4,4,4-trifluorobut-2-enoic acid (8 g, 57.1 mmol) and Methanol (24 mL), the solution was stirred in a water bath, then sodium methanethiolate (10.01 g, 143 mmol) was added in three portions. Vigorous bubbling was observed, the mixture was stirred at 25° C. overnight, NMR showed no more starting material. To the reaction mixture was added 2 N HCl until acidic. The mixture was extracted with chloroform (5×50 mL), combined organic layer was dried over Na2SO4, concentrated in vacuo and further dried under high vacuum until there was no weight loss to give 4,4,4-trifluoro-3-(methylthio)butanoic acid (10.68 g, 56.8 mmol, 99% yield) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 10.88 (s, 1H), 3.53 (dqd, J=10.5, 8.3, 4.0 Hz, 1H), 2.96 (dd, J=16.9, 4.0 Hz, 1H), 2.65 (dd, J=16.9, 10.4 Hz, 1H), 2.29 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 175.78 (s), 126.61 (q, JC-F=278.8 Hz), 44.99 (q, JC-F=30.3 Hz), 34.12 (d, JC-F=1.7 Hz), 15.95 (s); EIMS m/z 162.

reactant | (E)-4,4,4-trifluorobut-2-enoic acid | 57.1 mmol, 8 g | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
reactant | sodium methanethiolate | 143 mmol, 10.01 g | C[S-].[Na+]
solvent | Methanol | 24 mL | CO | CH4O
product | 4,4,4-trifluoro-3-(methylthio)butanoic acid | 56.8 mmol, 10.68 g, 99% yield | FC(C(CC(=O)O)SC)(F)F | C5H7F3O2S
